US08080572B2
4-Bromophenylacetonitrile (5.0 g, 25.5 mmol), hydroxylamine hydrochloride (3.9 g, 56.1 mmol), and sodium bicarbonate (5.1 g, 61.2 mmol) were dissolved in MeOH (250 mL, 6.2 mol) and water (40 mL, 2 mol). The mixture was heated at reflux overnight, cooled, and then concentrated to ˜50 mL. The residue was dissolved in DCM, washed with water and saturated aqueous NaCl, dried over MgSO4, filtered and concentrated to yield 2-(4-bromophenyl)-N-hydroxyacetamidine (5.0 g).

reactant | 4-Bromophenylacetonitrile | 25.5 mmol, 5.0 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | hydroxylamine hydrochloride | 56.1 mmol, 3.9 g | Cl.NO
reactant | sodium bicarbonate | 61.2 mmol, 5.1 g | C([O-])(O)=O.[Na+]
reactant | MeOH | 6.2 mol, 250 mL | CO | CH4O
reactant | water | 2 mol, 40 mL | O | H2O
product | 2-(4-bromophenyl)-N-hydroxyacetamidine | 5.0 g | BrC1=CC=C(C=C1)CC(=N)NO | C8H9BrN2O
